US06252082B1
1.5. Methyl 6-methyl-3-nitro-2-oxo-4-(phenylmethyl)-1,2-dihydropyridine-1-acetate
200 μl of chlorotrimethylsilane are added at room temperature to 2 g (30.6 mmol) of zinc in suspension in 50 ml of tetrahydrofuran, the mixture is kept stirred for 0.5 hour at room temperature and then it is cooled to 0° C. 4.5 g (26.3 mmol) of phenylmethyl bromide in solution in 20 ml of tetrahydrofuran are then added dropwise and then the reaction medium is kept stirred for 2 hours at this temperature. Next, the mixture is transferred to a three-necked flask containing 2.24 g (25 mmol) of copper(I) cyanide and 2.12 g (50 mmol) of lithium chloride at −10° C., the mixture is stirred at this temperature for 5 minutes and then cooled to −70° C. 7.3 g (19.5 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate in solution in 50 ml of tetrahydrofuran are then added dropwise, the temperature of the reaction medium is allowed to return to 0° C. and the stirring is maintained for 1 hour at this temperature. The mixture is then poured over 100 ml of a 1 N hydrochloric acid solution and 200 ml of dichloromethane are added. The precipitate is filtered, the filtrate is allowed to settle out and the aqueous phase is extracted with dichloromethane. The organic phases are combined, they are dried over magnesium sulphate and evaporated to dryness. The residue is purified by chromatography on a silica gel column, eluting with a dichloro-methane:methanol (98:2) mixture.

reactant | chlorotrimethylsilane | 200 μl | Cl[Si](C)(C)C | C3H9ClSi
reactant | phenylmethyl bromide | 26.3 mmol, 4.5 g | C1(=CC=CC=C1)CBr | C7H7Br
reactant | copper(I) cyanide | 25 mmol, 2.24 g | [Cu]C#N
reactant | lithium chloride | 50 mmol, 2.12 g | [Cl-].[Li+]
reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 19.5 mmol, 7.3 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | zinc | 30.6 mmol | [Zn] | Zn
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl 6-methyl-3-nitro-2-oxo-4-(phenylmethyl)-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])CC1=CC=CC=C1 | C16H16N2O5
